US04912135
Preparation of 1,3-bis(methoxyacetylamino)benzene:
To a solution of m-phenylenediamine (5.41 g) in pyridine (100 ml) is added dropwise methoxyacetyl chloride (10 ml). The mixture is stirred at room temperature for 2 hours, and thereafter, pyridine is distilled off under reduced pressure. To the residue is added water, and the mixture is extracted with chloroform. The organic layer is dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The resulting crude crystals are recrystallized from ethyl acetate-hexane to give the title compound (9.89 g) having the following physical properties.

reactant | m-phenylenediamine | 5.41 g | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | methoxyacetyl chloride | 10 ml | COCC(=O)Cl | C3H5ClO2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 1,3-bis(methoxyacetylamino)benzene | 9.89 g | COCC(=O)NC1=CC(=CC=C1)NC(COC)=O | C12H16N2O4
